US06762320B2
a) 4-[2-(3-Fluoro-phenyl)-vinyl]-1-nitro-benzene
Prepared in analogy to example 56b) from (4-nitro-benzyl)-phosphonic acid diethyl ester and 3-fluoro-benzaldehyde. Yellow solid. Yield=82%. MS: m/e=243.0 (M+).

reactant | (4-nitro-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H16NO5P
reactant | 3-fluoro-benzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
product | 4-[2-(3-Fluoro-phenyl)-vinyl]-1-nitro-benzene | Yield=82% | FC=1C=C(C=CC1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H10FNO2
